US08293909B2
N-(4-(benzyloxy)pyridin-3-yl)-N-(methylsulfonyl)methane sulfonamide.
4-(Benzyloxy)-3-nitropyridine (14 g, 69.8 mmol, 1 eq) was dissolved in dichloromethane and cooled to 0° C. Then added TEA (29.2 ml, 209.6 mmol, 3 eq), followed by the addition of potassium carbonate (9.96 g, 69.8 mmol, 1 eq) at 0° C. and stirred for 15 minutes. Methane sulfonyl chloride (20 g, 174 mmol, 2.5 eq) was added slowly at 0° C. to the above mixture and stirred for 14 h. After the completion of reaction, monitored by TLC, the reaction mixture was diluted with water and organic layer was separated. Water layer was extracted twice with 200 ml of dichloromethane, and the combined dichloromethane mixture was washed with water (500 ml) and brine (500 ml). The organic solution was concentrated under vacuum to yield the pure product. Yield: 19.5 g (78%). 1HNMR (400 MHz, DMSO-d6): δ 3.47 (S, 6H), 5.35 (s, 2H), 7.32 (d, J=5.76 Hz, 1H), 7.40-7.49 (m, 3H), 7.51 (t, J=4.12 Hz, 2H), 8.52 (d, J=5.68 Hz, 1H), 8.57 (s, 1H).

reactant | 4-(Benzyloxy)-3-nitropyridine | 69.8 mmol, 14 g, 1 eq | C(C1=CC=CC=C1)OC1=C(C=NC=C1)[N+](=O)[O-] | C12H10N2O3
reactant | potassium carbonate | 69.8 mmol, 9.96 g, 1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | Methane sulfonyl chloride | 174 mmol, 20 g, 2.5 eq | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(4-(benzyloxy)pyridin-3-yl)-N-(methylsulfonyl)methane sulfonamide | C(C1=CC=CC=C1)OC1=C(C=NC=C1)N(S(=O)(=O)C)S(=O)(=O)C | C14H16N2O5S2
